US06806230B1
1.05 g (4.2 mol) of 5-(1-chloro-2-methylpropyl)-4-trifluoromethylpyrimidine and 0.61 (4.2 mol) of N-phenylethylenediamine were added to 10 ml of isopropyl alcohol, followed by stirring at room temperature for 6 hours. After completion of the reaction, the reaction solution was concentrated, then poured into water and extracted with ethyl acetate, and purified by silica gel column chromatography (ethyl acetate:n-hexane=1:1 to ethyl acetate) to obtain 0.38 g of N-[2-methyl-1-(4-trifluoromethylpyrimidin-5-yl)-propyl]-N′-phenylethane-1,2-diamine. Then, 0.38 g (1 mmol) of N-[2-methyl-1-(4-trifluoromethylpyrimidin-5-yl)-propyl]-N′-phenylethane-1,2-diamine and 0.5 g (5 mmol) of triethylamine were added to 10 ml of dichloromethane, and a dichloromethane solution containing 0.2 g (2 mmol) of phosgene was dropwise added under cooling with ice. After the dropwise addition, stirring was further continued at room temperature for 1 hour to terminate the reaction. After termination of the reaction, the product was poured into water, washed with an aqueous sodium hydrogencarbonate solution, dried and concentrated, and the obtained oily product was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:1 to ethyl acetate) to obtain 0.25 g (yield: 61%) of 1-[2-methyl-1-(4-trifluoromethyl-pyrimidin-5-yl)-propyl]-3-phenylimidazolin-2-one as colorless crystals (melting point: 126-128° C.).

reactant | 5-(1-chloro-2-methylpropyl)-4-trifluoromethylpyrimidine | 4.2 mol, 1.05 g | ClC(C(C)C)C=1C(=NC=NC1)C(F)(F)F | C9H10ClF3N2
reactant | N-phenylethylenediamine | C1(=CC=CC=C1)NCCN | C8H12N2
solvent | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
product | N-[2-methyl-1-(4-trifluoromethylpyrimidin-5-yl)-propyl]-N′-phenylethane-1,2-diamine | 0.38 g | CC(C(C=1C(=NC=NC1)C(F)(F)F)NCCNC1=CC=CC=C1)C | C17H21F3N4
